US08278482B2
1-(3-(Dichloroamino)-3-methylbutyl)-1,4,4-trimethylpiperidinium chloride
A solution of 1-(3-amino-3-methylbutyl)-1,4,4-trimethylpiperidinium chloride hydrochloride (0.50 g, 1.73 mmol) in a mixture of methanol (10 mL) and water (8 mL) was cooled in an ice bath for 15 min. t-BuOCl (0.62 mL, 3 equiv, 5.21 mmol) was added in one portion via syringe to the colorless solution to give a deep yellow solution. The reaction mixture was stirred for 30 min at 0° C., then concentrated under reduced pressure to yield a colorless oil. This oil was dissolved into water and purified via reverse phase chromatography on a Shimadzu Prep-LC utilizing water/acetonitrile and 0.05% acetic acid as modifier. Fractions were collected monitoring UV absorbance at 215 nm. Fractions were pooled and concentrated via rotovap with the water bath set at 25° C. to give a pale yellow foam, (0.373 g, 67.8%). 1H NMR (D2O, 400 MHz): δ 1.06 (s, 3H), 1.07 (s, 3H), 1.46 (s, 6H), 1.64-1.80 (m, 4H), 2.21-2.27 (m, 2H), 3.05 (s, 3 H), 3.35-3.45 (m, 6H). LRMS (ESI+) for C13H27Cl2N2+ (281.1); Found: 281, 283 (M+, M2H+).

reactant | 1-(3-amino-3-methylbutyl)-1,4,4-trimethylpiperidinium chloride hydrochloride | 1.73 mmol, 0.50 g | Cl.[Cl-].NC(CC[N+]1(CCC(CC1)(C)C)C)(C)C
reactant | t-BuOCl | 5.21 mmol, 0.62 mL, 3 equiv | C(C)(C)(C)OCl | C4H9ClO
solvent | methanol | 10 mL | CO | CH4O
solvent | water | 8 mL | O | H2O
product | 1-(3-(Dichloroamino)-3-methylbutyl)-1,4,4-trimethylpiperidinium chloride | [Cl-].ClN(C(CC[N+]1(CCC(CC1)(C)C)C)(C)C)Cl | InChI=1S/C13H27Cl2N2.ClH/c1-12(2)6-9-17(5,10-7-12)11-8-13(3,4)16(14)15;/h6-11H2,1-5H3;1H/q+1;/p-1
